US06399629B1
(E) 1-(trans-4-Glycylamino-L-Prolyl)-4-(4-Benzyloxyphenoxy)piperidine Dihydrochloride
A solution of 4 N hydrochloric acid in 1,4-dioxane (9 mL) was added to a solution of 1-[trans-4-(N-tert-butoxycarbonylglycylamino)-N-tert-butoxycarbonyl-L-Prolyl]-4-(4-benzyloxyphenoxy)piperidine (D, 330 mg) in 1,4-dioxane (9 mL) at room temperature. After stirring at room temperature for 30 min, the reaction mixture was concentrated in vacuo. The residue was washed with ether to give the titled compound (186 mg) as a white powder: 1H NMR (400 MHz, D2O) δ 1.58 (br s, 2H), 1.83 (br s, 2H), 2.25 (m, 1H), 2.43 (m, 1H), 3.20-3.40 (m, 3H), 3.50-3.70 (m, 3H), 3.70 (s, 2H), 4.41 (m, 1H), 4.85 (t, J=8.30 Hz, 1H), 4.93 (s, 2H), 6.85 (s, 4H), and 7.24-7.31 (m, 5H); mass spectrum (E+) m/e 452; IR (KBr) 3438, 3059, 1689, 1651, 1549, 1508, 1228, 1024, 825, 741, and 698 cm−1; Anal. Calcd for C25H32N4O4.2HCl.0.5H2O: C, 56.18; H, 6.60; N, 10.48; Cl, 13.27. Found: C, 56.56; H, 6.61; N, 10.05; Cl, 12.72.

reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | 1-[trans-4-(N-tert-butoxycarbonylglycylamino)-N-tert-butoxycarbonyl-L-Prolyl]-4-(4-benzyloxyphenoxy)piperidine | 330 mg | C(C)(C)(C)OC(=O)NCC(=O)N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)N1CCC(CC1)OC1=CC=C(C=C1)OCC1=CC=CC=C1 | C35H48N4O8
solvent | 1,4-dioxane | 9 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 9 mL | O1CCOCC1 | C4H8O2
product | 1-(trans-4-Glycylamino-L-Prolyl)-4-(4-Benzyloxyphenoxy)piperidine Dihydrochloride | 186 mg | Cl.Cl.NCC(=O)N[C@@H]1C[C@H](NC1)C(=O)N1CCC(CC1)OC1=CC=C(C=C1)OCC1=CC=CC=C1 | InChI=1S/C25H32N4O4.2ClH/c26-15-24(30)28-19-14-23(27-16-19)25(31)29-12-10-22(11-13-29)33-21-8-6-20(7-9-21)32-17-18-4-2-1-3-5-18;;/h1-9,19,22-23,27H,10-17,26H2,(H,28,30);2*1H/t19-,23+;;/m1../s1
